US08349865B2
To a solution of 5-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}-2,4-dimethylbenzenesulfonic acid (5 g, 11.8 mmol) in DMF (5.9 mL) was added thionyl chloride (4.3 mL, 59.0 mmol). The reaction was stirred at room temperature for three hours and then quenched by the addition of water. The colorless precipitate was then collected by filtration and dried in vacuo to afford 9H-fluoren-9-ylmethyl[5-(chlorosulfonyl)-2,4-dimethylphenyl]carbamate as a colorless solid.

reactant | 5-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}-2,4-dimethylbenzenesulfonic acid | 11.8 mmol, 5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC=1C(=CC(=C(C1)S(=O)(=O)O)C)C | C23H21NO5S
reactant | thionyl chloride | 59.0 mmol, 4.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 5.9 mL | CN(C)C=O | C3H7NO
product | 9H-fluoren-9-ylmethyl[5-(chlorosulfonyl)-2,4-dimethylphenyl]carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1=C(C=C(C(=C1)S(=O)(=O)Cl)C)C)=O | C23H20ClNO4S
